US05527524
Four aliquots of the conjugate were hydrolyzed with concentrated HCl at 115° C. for 20 hours and analyzed for phenylalanine. The phenylalanine was quantified as the o-phthalaldehyde/2-mercaptoethanol derivative using reverse phase HPLC with a fluorescence detector (HPLC conditions as Example 24 except the eluent gradient was 12% to 80% methanol over 20 min. and then held at 80% for 5 min.). The o-phthalaldehyde derivative was prepared as given in Example 24. For a 25 μL aliquot of the conjugate, 26 nmoles phenylalanine were found. This corresponds to 0.26 μmoles BOCPheLeuPheLeuPhe on the conjugate.

reactant | HCl | Cl | ClH
reactant | phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | o-phthalaldehyde 2-mercaptoethanol | C1=CC=C(C(=C1)C=O)C=O.SCCO
reactant | phenylalanine | 26 nmoles | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | BOCPheLeuPheLeuPhe | 0.26 μmoles | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C44H59N5O8
solvent | methanol | CO | CH4O
product | o-phthalaldehyde | C1=CC=C(C(=C1)C=O)C=O | C8H6O2
